US04042603
This example was carried out under the same conditions as in Example 1 except that 15.0 g of 4,4'-dimethyldiphenyl ether, 0.038 g (0.15 m. mole) of palladium propionate, 0.015 g (0.15 m. mole) of acetylacetone and 5 ml of ethylene glycol diacetate were employed. As a result, 2.78 g (14 m. moles) of 2,8-dimethyldibenzofuran and 0.78 g (2.0 m. moles) of the dimer also obtained.

reactant | 4,4'-dimethyldiphenyl ether | 15.0 g | CC1=CC=C(C=C1)OC2=CC=C(C=C2)C | C14H14O
reactant | acetylacetone | 0.015 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | ethylene glycol diacetate | 5 ml | C(C)(=O)OCCOC(C)=O | C6H10O4
catalyst | palladium propionate | 0.038 g | C(CC)(=O)[O-].[Pd+2].C(CC)(=O)[O-]
product | 2,8-dimethyldibenzofuran | 2.78 g | CC1=CC2=C(OC3=C2C=C(C=C3)C)C=C1 | C14H12O
